US05214037
To a solution of 7β-(N-t-butoxycarbonyl-2-phenylglycylamino) -3- (trityl-1,2,3-triazol-4-ylthiomethylthio) -3-cephem-4-carboxylic acid diphenylmethyl ester (480 mg : 0.487 mMol.) in a mixture of anisole (1.2 ml) and dichloromethane (3 ml) under ice cooling is added trifluoro- acetic acid (3 ml), and the mixture is stirred under ice cooling for 30 minutes and at room temperature for 50 minutes. The reaction mixture is shaken with ice water and ethyl acetate under ice cooling. The aqueous layer is taken, concentrated to remove the remaining organic solvents under reduced pressure, and subjected to column chromatography over styrene-divinylbenzene copolymer resin (methanol : water=4:1). The residue is pulverized from ethyl acetate to give 7β-(2-phenylglycylamino)-3-(1,2,3-triazol -4-ylthiomethylthio)-3-cephem-4-carboxylic acid (157 mg) as white powder. Yield: 67%.

reactant | 7β-(N-t-butoxycarbonyl-2-phenylglycylamino) -3- (trityl-1,2,3-triazol-4-ylthiomethylthio) -3-cephem-4-carboxylic acid diphenylmethyl ester | 0.487 mMol, 480 mg | C1(=CC=CC=C1)C(C1=CC=CC=C1)OC(=O)C1=C(CS[C@H]2N1C([C@H]2NC(C(NC(=O)OC(C)(C)C)C2=CC=CC=C2)=O)=O)SC(SC=2N=NNC2)C(C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2 | C55H50N6O6S3
reactant | trifluoro- acetic acid | 3 ml | FC(C(=O)O)(F)F | C2HF3O2
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | anisole | 1.2 ml | C1(=CC=CC=C1)OC | C7H8O
solvent | dichloromethane | 3 ml | ClCCl | CH2Cl2
product | 7β-(2-phenylglycylamino)-3-(1,2,3-triazol -4-ylthiomethylthio)-3-cephem-4-carboxylic acid | 157 mg, Yield: 67% | C1(=CC=CC=C1)C(N)C(=O)N[C@H]1[C@@H]2N(C(=C(CS2)SCSC=2N=NNC2)C(=O)O)C1=O | C18H18N6O4S3
